US08957070B2
Methyl 7-amino-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
A mixture of methyl 7-(benzylamino)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (3.2 g), ammonium formate (7.2 g), 10% palladium-carbon (50% containing water, 3.2 g) and methanol (120 mL) was heated under reflux for 4 hr. Ammonium formate (6.0 g) was further added to the reaction solution, and the mixture was heated under reflux for 16 hr. The insoluble material was filtered off by passing the reaction solution through celite without cooling. The filtrate was concentrated and the obtained crystals were washed with methanol to give the title compound (1.62 g, yield 75%) as pale-yellow prism crystals. melting point not less than 300° C.

reactant | methyl 7-(benzylamino)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 3.2 g | C(C1=CC=CC=C1)NC=1N=CC=C2C1NC(=C2)C(=O)OC | C16H15N3O2
reactant | ammonium formate | 7.2 g | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 6.0 g | C(=O)[O-].[NH4+]
catalyst | palladium-carbon | 3.2 g | [C].[Pd]
solvent | methanol | 120 mL | CO | CH4O
product | Methyl 7-amino-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1.62 g, yield 75% | NC=1N=CC=C2C1NC(=C2)C(=O)OC | C9H9N3O2
